US04666915
Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (15 g) and 2-(1-methylethoxy)aniline (11.5 g) are added to ethanol (100 ml), and the mixture is refluxed with stirring for 17 hours. After cooling, the precipitate is collected by filtration and recrystallized from DMF to give ethyl 1,6-dihydro-2-[2-(1-methylethoxy)anilino]-6-oxo-5-pyrimidinecarboxylate (8.5 g). M.p. 205°-207° C.

reactant | Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 15 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 2-(1-methylethoxy)aniline | 11.5 g | CC(C)OC1=C(N)C=CC=C1 | C9H13NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 1,6-dihydro-2-[2-(1-methylethoxy)anilino]-6-oxo-5-pyrimidinecarboxylate | 8.5 g | CC(C)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C16H19N3O4
